US05352784
5,6,7,8-Tetrahydro-4-[(2-hydroxy-2-methylpropyl)amino]-3-nitroquinolin-2-yl Trifluoromethanesulfonate
Triethylamine (1.36 mL, 9.8 mmole) was added to a solution of 5,6,7,8-tetrahydro-3-nitro-2,4-bis[(trifluoromethyl)sulfonyloxy]quinoline (4.2 g, 9.4 mmole) in methylene chloride (180 mL). 2-Amino-α,α-dimethylethanol (0.88 g, 9.8 mmole) was added to the reaction mixture which was then stirred at ambient temperature overnight. The reaction mixture was evaporated to provide a residue which was purified by silica gel chromatography eluting with hexane: ethyl acetate 40:60 to provide 3.8 g of the desired product.

reactant | Triethylamine | 9.8 mmole, 1.36 mL | C(C)N(CC)CC | C6H15N
reactant | 5,6,7,8-tetrahydro-3-nitro-2,4-bis[(trifluoromethyl)sulfonyloxy]quinoline | 9.4 mmole, 4.2 g | [N+](=O)([O-])C=1C(=NC=2CCCCC2C1OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C11H8F6N2O8S2
reactant | 2-Amino-α,α-dimethylethanol | 9.8 mmole, 0.88 g | NCC(O)(C)C | C4H11NO
solvent | methylene chloride | 180 mL | C(Cl)Cl | CH2Cl2
product | 5,6,7,8-Tetrahydro-4-[(2-hydroxy-2-methylpropyl)amino]-3-nitroquinolin-2-yl Trifluoromethanesulfonate | 3.8 g | FC(S(=O)(=O)OC1=NC=2CCCCC2C(=C1[N+](=O)[O-])NCC(C)(C)O)(F)F | C14H18F3N3O6S
